* C:\Electronics\STM32\Remote monitor\LTspice tests\Switch output tests.asc
V8 N001 N006 PULSE(0 40 0.5us 0 0 1us 2us) Rser=0 Cpar=0
Q2 N004 N008 0 0 NPN
R9 N002 N001 100
D4 N002 N004 D
D8 0 N004 D
V10 N006 0 PULSE(0 -20V 0 0 0 1s 1s)
D6 N008 N004 1N750
Q1 N004 N003 N002 0 NPN
D3 N003 N004 1N750
Q3 N016 N017 0 0 NPN
V3 N011 0 7.5
R16 N010 N016 50
V12 N010 N015 SINE(0 7.5 100k)
R18 N011 N017 600
R19 N017 0 100
V13 N015 0 7.5
R1 N009 N012 10
Q4 NC_01 NC_02 NC_03 0 NPN
R2 N013 N014 10k
V1 N013 0 PULSE(0 3.3 0 0 0 50u 100u)
V2 N009 0 40
V4 N005 0 PULSE(0 3 0.5us 0 0 0.1us 0.2us) Rser=0 Cpar=0
C2 N007 0 4.7µ
R3 N005 N007 100
M1 N012 N014 0 0 BSC100N06LS3
C1 N014 0 1n
.model D D
.lib C:\Users\zasi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\zasi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\zasi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 300us 0 0.01us startup
* dv / dt = I/C
* MMSD4148\nmax 4 pF, max 25 nA@20V
* VBUS05B1-SD0 x 4 (bidirectional)
* input zener BZT52C30
.backanno
.end
